US08865726B2
To a solution of (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (0.500 g, 1.32 mmol) in dioxane (8 mL) purged continuously with nitrogen gas was added 3-fluoro-4-formylphenylboronic acid (0.333 g, 1.98 mmol) and 2.0 M sodium carbonate aqueous solution (1.98 mL, 3.97 mmol). To the reaction was added Pd2 dba3 (0.242 g, 0.264 mmol) and X-Phos (0.126 g, 0.264 mmol) and the reaction stirred at 80° C. for 1 hour. After cooling, the reaction was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with water and brine, dried, and concentrated under vacuum. The residue was purified by preparative TLC (50% EtOAc/hexane) to give (S)-2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzaldehyde (0.47 g, 84% yield) as a yellow solid.

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 1.32 mmol, 0.500 g | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C14H9BrFN5O2
reactant | 3-fluoro-4-formylphenylboronic acid | 1.98 mmol, 0.333 g | FC=1C=C(C=CC1C=O)B(O)O | C7H6BFO3
reactant | sodium carbonate | 3.97 mmol, 2.0 M, 1.98 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | X-Phos | 0.264 mmol, 0.126 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.264 mmol, 0.242 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-2-fluoro-4-(5-(4-(5-fluoropyridin-2-yl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzaldehyde | 0.47 g, 84% yield | FC1=C(C=O)C=CC(=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C21H13F2N5O3
